US07981874B2
Ethyl [3-(4-bromophenyl)-3-oxopropyl]methylphosphinate (3 g, 9.40 mmol), palladium(II) acetate (0.106 g, 0.470 mmol) and 1,3-bis(diphenylphosphino)propane (0.194 g, 0.470 mmol) were taken up in DMF (24 mL)/water (8 mL). CO was bubbled through for 10 minutes before adding DIPEA (3.28 mL, 18.80 mmol) and stirring at 70° C. under a balloon of CO overnight. Room temperature was attained and saturated NaHCO3 was added. The aqueous phase was extracted with EtOAc (×2) before acidifying with 2N HCl and extracting again with EtOAc (×2). The combined organic extracts from the acidic aqueous were washed with brine, dried over MgSO4 and concentrated in vacuo to give 4-{3-[(ethyloxy)(methyl)phosphoryl]propanoyl}benzoic acid as a pale yellow solid.

reactant | Ethyl [3-(4-bromophenyl)-3-oxopropyl]methylphosphinate | 9.40 mmol, 3 g | BrC1=CC=C(C=C1)C(CCP(OCC)(=O)C)=O | C12H16BrO3P
reactant | 1,3-bis(diphenylphosphino)propane | 0.470 mmol, 0.194 g | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | DIPEA | 18.80 mmol, 3.28 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 24 mL | CN(C)C=O | C3H7NO
catalyst | palladium(II) acetate | 0.470 mmol, 0.106 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 8 mL | O | H2O
product | 4-{3-[(ethyloxy)(methyl)phosphoryl]propanoyl}benzoic acid | C(C)OP(=O)(C)CCC(=O)C1=CC=C(C(=O)O)C=C1 | C13H17O5P
